US08492378B2
6-(5-methoxy-1,3,4-oxadiazol-2-yl)-1-[4-(trifluoromethoxy)phenyl]-1H-benzimidazole
To a solution of 6-[5-(methylsulfonyl)-1,3,4-oxadiazol-2-yl]-1-[4-(trifluoromethoxy)phenyl]-1H-benzimidazole (150 mg, 0.35 mmol) in N,N-dimethylformamide (3 mL) was added sodium methoxide (23 mg, 0.42 mmol) at room temperature, and the resulting mixture was stirred for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=2/1-0/1) and recrystallized from hexane/ethyl acetate to give the title compound (35.4 mg, yield 27%) as colorless crystals.

reactant | 6-[5-(methylsulfonyl)-1,3,4-oxadiazol-2-yl]-1-[4-(trifluoromethoxy)phenyl]-1H-benzimidazole | 0.35 mmol, 150 mg | CS(=O)(=O)C1=NN=C(O1)C=1C=CC2=C(N(C=N2)C2=CC=C(C=C2)OC(F)(F)F)C1 | C17H11F3N4O4S
reactant | sodium methoxide | 0.42 mmol, 23 mg | C[O-].[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(5-methoxy-1,3,4-oxadiazol-2-yl)-1-[4-(trifluoromethoxy)phenyl]-1H-benzimidazole | 35.4 mg, yield 27% | COC1=NN=C(O1)C=1C=CC2=C(N(C=N2)C2=CC=C(C=C2)OC(F)(F)F)C1 | C17H11F3N4O3
